US08236803B2
A solution of (rac.)-3-quinuclidinol (0.007 mole) in dry THF under nitrogen is treated with sodium hydride (60% in mineral oil; 1.1 equiv.). After 1 hr at room temperature, a solution of 3-chloro-6-(4-fluoro-phenyl)pyridazine (1.0 equiv.) in THF (30 ml) is added, and the reaction mixture heated to reflux for 6 hrs. After cooling to rt, the THF is evaporated and the residue dissolved in ethyl acetate (100 ml) and then washed with water (3×20 ml), followed by sodium chloride solution (20 ml). The ethyl acetate is dried over anhydrous magnesium sulfate, filtered and evaporated to dryness, and the residual oil purified by silica gel column chromatography (eluent: ethyl acetate-methanol-triethylamine (50:10:2) to afford (rac.)-3-[6-(4-fluorophenyl)-pyridazin-3-yloxy]-1-aza-bicyclo[2.2.2]octane as a colourless solid. 1H-NMR (400 MHz, CDCl3): δ=8.00 (m, 2H), 7.75 (d, 1H), 7.17 (m, 2H), 7.1 (d, 1H), 5.35 (m, 1H), 3.5 (m, 1H), 2.99-2.83 (m, 5H), 2.32 (m, 1H), 1.98 (m, 1H), 1.76-1.68 (m, 2H), 1.46 (m, 1H).

reactant | (rac.)-3-quinuclidinol | 0.007 mole | N12CC(C(CC1)CC2)O | C7H13NO
reactant | sodium hydride | 1.1 equiv. | [H-].[Na+]
reactant | 3-chloro-6-(4-fluoro-phenyl)pyridazine | 1.0 equiv. | ClC=1N=NC(=CC1)C1=CC=C(C=C1)F | C10H6ClFN2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (rac.)-3-[6-(4-fluorophenyl)-pyridazin-3-yloxy]-1-aza-bicyclo[2.2.2]octane | FC1=CC=C(C=C1)C1=CC=C(N=N1)OC1CN2CCC1CC2 | C17H18FN3O
